US04559354
0.5 g of 2-(4-hydroxyphenyl)-thiazole is added in one portion to a mixture, heated under reflux, of 5 ml of epichlorohydrin and 0.79 g of potassium carbonate and the reaction mixture is then heated under reflux for a further 20 minutes. After cooling, the mixture is filtered, the filtrate is concentrated by evaporation in a rotary evaporator and the residue is dissolved in 6 ml of dichloromethane; 100 mg of tetrabutylammonium hydrogen sulphate and 6 ml of 2N sodium hydroxide solution are added to the solution and the whole is stirred for 3 hours at room temperature. The organic phase is separated off, washed with water and dried over sodium sulphate and the solvent is then removed in a rotary evaporator. The residue is recrystallised from a mixture of ether/hexane, yielding 2-[4-(2,3-epoxypropoxy)-phenyl]-thiazole having a melting point of 82°-93°.

reactant | 2-(4-hydroxyphenyl)-thiazole | 0.5 g | OC1=CC=C(C=C1)C=1SC=CN1 | C9H7NOS
reactant | epichlorohydrin | 5 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 0.79 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[4-(2,3-epoxypropoxy)-phenyl]-thiazole | O1C(COC2=CC=C(C=C2)C=2SC=CN2)C1 | C12H11NO2S
